US06660744B1
A suspension of 3-(4-Amino-3-methoxyphenyl)-1-[1-(1-methylpiperidin-4-yl)piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.398 g, 0.912 mmol) in pyridine (7 mL) at −5° C. was treated with a solution of 4-(dimethylamino)-1-benzenecarbonyl chloride (0.167 g, 0.912 mmol) in dichloromethane (3 mL). The reaction mixture was stirred at −5° C. for 2.5 h, and the ice bath was removed. 1 N sodium hydroxide solution (10 mL) was added to the reaction mixture and stirred for 1 h. The organic layer was removed under reduced pressure, and dichloromethane (15 mL) was added. The layers were separated using an Empore extraction cartridge. The organic layer was removed under reduced pressure. The crude solid was purified two times by flash chromatography on silica gel using 12% (methanol with 5% ammonium hydroxide) in dichloromethane as eluent to give 0.284 g (53%) of N1-(4-{4-amino-1-[1-(1-methylpiperidin-4-yl)piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-4-(dimethylamino)benzamide. A hot solution of N1-(4-{4-amino-1-[1-(1-methylpiperidin-4-yl)piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-4-(dimethylamino)benzamide (0.284 g, 0.487 mmol) in ethyl acetate and a few drops of ethanol was treated with a hot solution of maleic acid (0.169 g, 1.46 mmol) in ethyl acetate. The precipitate formed was filtered under nitrogen and dried under high vacuum to give 0.409 g N1-(4-{4-amino-1-[1-(1-methylpiperidin-4-yl)piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-4-(dimethylamino)benzamide tris-maleate. 1H NMR (DMSO-d6, 400 MHz) δ 9.054 (s, 1H), 8.278 (s, 1H), 8.215-8.194 (m, 1H), 7.851-7.828 (m, 2H), 7.312-7.308 (m, 1H), 7.288-7.263 (m, 1H), 6.794-6.772 (m, 2H), 6.096 (s, 6H), 5.10-5.00 (m, 1H), 3.951 (s, 3H), 3.538 (s, 4H), 3.061 (s, 8H), 2.215-2.183 (m, 4H), 1.90-1.81 (m, 2H); HPLC Waters 2690 Alliance HPLC (Symmetry Shield RP18 3.5 μm, 2.1×50 mm; 5%-95% acetonitrile-0.1 M ammonium acetate over 15 min, 0.5 mL/min) Rt 4.496 min (98%).

reactant | 3-(4-Amino-3-methoxyphenyl)-1-[1-(1-methylpiperidin-4-yl)piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.912 mmol, 0.398 g | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CCN(CC2)C2CCN(CC2)C)OC | C23H32N8O
reactant | 4-(dimethylamino)-1-benzenecarbonyl chloride | 0.912 mmol, 0.167 g | CN(C1=CC=C(C=C1)C(=O)Cl)C | C9H10ClNO
solvent | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N1-(4-{4-amino-1-[1-(1-methylpiperidin-4-yl)piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-4-(dimethylamino)benzamide | 0.284 g, 53% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(C2=CC=C(C=C2)N(C)C)=O)OC)C2CCN(CC2)C2CCN(CC2)C | C32H41N9O2
